US06903118B1
b) 2-(4-{4-[bis-(4-fluorophenyl)-methyl]-piperazin-1-yl}-but-2-inyl)-isoindolin-1,3-dione
15 g (81 mmol) 2-propinyl-isoindolin-1,3-dione, 15 g (52 mmol) [bis-(4-fluorophenyl)-methyl]-piperazine, 2:5 g (81 mmol) paraformaldehyde and 0,2 g copper sulfate are stirred for three hours in 200 ml dioxane at 100° C. The cool solution is concentrated under vacuum and the residue is distributed between acetic acid ethyl ester and saturated NaCl solution. The organic phase is dried over sodium sulfate and concentrated under vacuum until dry. The residue is chromatographically purified over silica gel with acetic acid ethyl ester/petroleum ether (1/1): Yield 23.4 g (93%) yellow amorphous solid.

reactant | 2-propinyl-isoindolin-1,3-dione | 81 mmol, 15 g | C(#CC)N1C(C2=CC=CC=C2C1=O)=O | C11H7NO2
reactant | [bis-(4-fluorophenyl)-methyl]-piperazine | 52 mmol, 15 g | FC1=CC=C(C=C1)C(C1=CC=C(C=C1)F)N1CCNCC1 | C17H18F2N2
reactant | paraformaldehyde | 81 mmol, 5 g | C=O | CH2O
solvent | dioxane | 200 ml | O1CCOCC1 | C4H8O2
catalyst | copper sulfate | 0,2 g | S(=O)(=O)([O-])[O-].[Cu+2]
product | 2-(4-{4-[bis-(4-fluorophenyl)-methyl]-piperazin-1-yl}-but-2-inyl)-isoindolin-1,3-dione | FC1=CC=C(C=C1)C(N1CCN(CC1)CC#CCN1C(C2=CC=CC=C2C1=O)=O)C1=CC=C(C=C1)F | C29H25F2N3O2
